US05166162
N-((4-(cyclooctylamino)pyrid-3-yl)sulfonyl)-N'-ethylthiourea
The procedure is identical to that of Example 5, using (4-(cyclooctylamino)pyrid-3-yl)sulfonamide and ethylisothiocyanate as the starting materials. Yield is similar. Melting point: 196°-198° C.

reactant | (4-(cyclooctylamino)pyrid-3-yl)sulfonamide | C1(CCCCCCC1)NC1=C(C=NC=C1)S(=O)(=O)N | C13H21N3O2S
reactant | ethylisothiocyanate | C(C)N=C=S | C3H5NS
product | N-((4-(cyclooctylamino)pyrid-3-yl)sulfonyl)-N'-ethylthiourea | C1(CCCCCCC1)NC1=C(C=NC=C1)S(=O)(=O)NC(=S)NCC | C16H26N4O2S2
